reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]#[C:2][C:3]1=[N:4][C@:5]1(/[C:6](=[N:7]/[H:10])[H:9])[H:8]>>[N:1]#[C:2][c:3]1[n:4][c:5]([H:8])[c:6]([H:9])[n:7]1[H:10],49.6197383945612
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1(/[C:5](=[C:6](\[O:7][H:16])[H:17])[H:15])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],62.50181593531865
[O:1]([C@@:2]([C:4](=[C:3])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],12.019817664530201
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:3]1([N:5]([C:6]([H:13])([H:14])[H:15])[H:12])[C:2]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],116.586522424099
[C:1]([C:2]([C:3]([C:4]#[N:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([N:5]=[C:4]=[C:3]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],97.5710774955996
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6][O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],80.314701415714
[C:1]1([H:9])([H:10])[C@:2]([O:3][H:12])([H:11])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])/[C:6]1=[N:7]/[H:8]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],80.87862947855099
[C:1]1([H:9])([H:10])[C@@:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:8])([H:14])[H:15])[N:7]=[C:6]1[H:16]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5][C:6]([H:16])=[N:7]1)([H:8])([H:9])[H:10],80.73255377448601
[O:1]([C:2]([C:3]([C:4](=[C:5]=[N:6][H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],54.441175010470204
[C:5]=[N:6][H:7].[N:1](=[C:2](\[C:3]#[N:4])[H:9])\[H:8]>>[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8],35.068777125947705
[O:1]([C:2][C:3]([C:4]([O:5][C:6](=[O:7])[H:13])([H:9])[H:12])([H:10])[H:11])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],24.0455577117188
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1](/[C:2](=[N:3]/[H:10])[C:4]#[N:5])([H:6])([H:8])[H:9].[H:7][H:11],111.661748030133
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1](=[C:2]([C:3]([C@:4]1([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])=[C:7]1[H:17])([H:11])[H:12])[H:10])([H:8])[H:9],81.22925609407591
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]1=[C+:7][C:6]([H:13])([H:14])[N:5]([H:12])[N-:4]1)[H:11])([H:8])([H:9])[H:10],77.0870532481332
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[N:1](/[C:2](=[N:3]/[C:4](=[O:5])[H:9])[H:7])([H:6])[H:8],42.27838589779249
[C:1]([O:2][C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[N:5](=[C:6]=[O:7])[H:16]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],91.79703022399896
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]1=[N:6]2,100.68549640431499
[N:3](=[C:4](\[C:5]([C:6]#[C:7][H:14])([H:12])[H:13])[H:10])\[H:9].[O:1]=[C:2]([H:8])[H:11]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],50.77667434387999
[C:2](=[O:3])=[C:4]([H:9])[H:10].[N:1]([C:5]#[N:6])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],55.377232761463986
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])[C:6][N:7]1[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],57.62456216510167
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2]([O+:3]=[C:4]([H:12])[H:13])([H:10])[H:11].[C:1]([C:5]#[N:6])([H:7])([H:8])[H:9],106.799469392202
[N:1]([C:2]([O:3][C:5]([O:6][H:13])([H:11])[H:12])=[C:4]([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],53.81683425855239
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:4]([O:5][H:10])[N:6]([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],17.779544855162506
[N+:1](#[C-:2])[C:3]([C:4]#[N:5])([H:6])[H:7]>>[N:1]#[C:2][C:3]([C:4]#[N:5])([H:6])[H:7],38.582833837808195
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]1([H:8])[C:2](=[N+:3]=[N-:4])[C@@:7]1([C:6](=[O:5])[H:9])[H:10],113.30112449451401
